US07138395B2
Preparation of (4S,7S,11aR)-7-benzoylamino-6-oxo-1,3,4,6,7,8,11,11a-octahydro-2H-pyrido[1,2-a]azocine-4-carboxylic acid methyl ester (43):
A solution containing crude 7-amino-6-oxo-1,3,4,6,7,8,11,11a-octahydro-2H-pyrido[1,2-a]azocine-4-carboxylic acid methyl ester, 42, (50 mg, 0.2 mmol) and Et3N (0.56 mL, 4.0 mmol) in 5 mL THF is treated with excess benzoyl chloride (0.23 mL, 2.0 mmol) and stirred for 5 minutes. The reaction is quenched with MeOH and concentrated. The crude residue obtained is purified by preparative reverse phase HPLC (CH3CN/H2O) to yield 45 mg of desired product. 1H NMR (CDCl3) δ 7.92 (d, J=5.9 Hz, 1H), 7.87 (d, J=7.7 Hz, 2H), 7.57–7.42 (m, 3H), 5.70 (m, 2H), 5.30 (m, 1H), 5.18 (m, 1H), 4.63 (m, 1H), 3.74 (s, 3H), 3.12 (m, 1H), 2.67 (m, 1H), 2.52 (m, 1H), 2.29 (m, 2H), 1.90–1.60 (m, 5H); 13C NMR δ 172.8, 172.3, 166.4, 134.4, 131.8, 129.9, 128.8(2C), 127.3(2C), 125.0, 52.3, 51.8, 51.4, 50.8, 35.4, 34.2, 29.7, 26.4, 15.7.

reactant | 7-amino-6-oxo-1,3,4,6,7,8,11,11a-octahydro-2H-pyrido[1,2-a]azocine-4-carboxylic acid methyl ester | COC(=O)C1CCCC2N1C(C(CC=CC2)N)=O | C13H20N2O3
reactant | Et3N | 4.0 mmol, 0.56 mL | CCN(CC)CC | C6H15N
reactant | benzoyl chloride | 2.0 mmol, 0.23 mL | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | (4S,7S,11aR)-7-benzoylamino-6-oxo-1,3,4,6,7,8,11,11a-octahydro-2H-pyrido[1,2-a]azocine-4-carboxylic acid methyl ester | 45 mg | COC(=O)[C@@H]1CCC[C@H]2N1C([C@H](CC=CC2)NC(C2=CC=CC=C2)=O)=O | C20H24N2O4
